US04864028
Methyl 2,4,5,7-Tetrafluorofluorene-9-carboxylate
Under nitrogen, n-butyllithium (5.6 mL of a 2.5M hexane solution) was added dropwise, to a -78° C. solution of the 2,4,5,7-tetrafluorofluorene in gold label THF (80 mL) over 2 min. After 20 min, the mixture was poured onto a slurry of dry-ice (10 g) in anhydrous ether. The solvents were evaporated and the residue was dissolved in methanol (200 mL) andd acidified with acetyl chloride (5 mL). After stirring for 18 h, the reaction was concentrated and the residue was diluted with saturated aqueous sodium bicarbonate (200 mL) and extracted with ethyl acetate (3×100 mL). The combined organics were washed with brine (3×100 mL), dried (MgSO4), and evaporated. The residue was chromatographed on silica gel using petroleum ether to provide 2.1 g (57%) of product: 1H NMR (DMSO-d6, 200 MHz) δ 7.44 (dd, 2H, J=2.2 and 8.3 Hz), 7.40-7.25 (m, 2H), 5.37 (s, 1H), 3.76 (s, 3H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 2.5M | CCCCCC | C6H14
reactant | 2,4,5,7-tetrafluorofluorene | FC1=CC=2CC3=CC(=CC(=C3C2C(=C1)F)F)F | C13H6F4
reactant | dry-ice | 10 g | C(=O)=O | CO2
solvent | gold | [Au] | Au
solvent | ether | CCOCC | C4H10O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | Methyl 2,4,5,7-Tetrafluorofluorene-9-carboxylate | 2.1 g, 57% | FC1=CC=2C(C3=CC(=CC(=C3C2C(=C1)F)F)F)C(=O)OC | C15H8F4O2
